US07951803B2
To a solution of 0.18 g (1.0 mmol, 1.0 eq.) of N-(4-nitrobenzyl)ethanamine (I-29) and 0.28 mL (2.0 mmol, 2.0 eq.) of triethylamine in 20 mL of methylene chloride was added 0.44 g (2.0 mmol, 2.0 eq.) di-tert-butyl dicarbonate. The reaction mixture was stirred at room temperature for 16 h. The resulting solution was washed with 1M NaHCO3 solution and sat. brine. The organic layer was dried (Na2SO4) and the solvent was removed in vacuo. The resulting residue was purified by preparative TLC to afford 0.25 g (0.9 mmol, 89%) of t-butyl 4-nitrobenzyl(ethyl)carbamate (I-30).

reactant | N-(4-nitrobenzyl)ethanamine | 1.0 mmol, 0.18 g, 1.0 eq. | [N+](=O)([O-])C1=CC=C(CNCC)C=C1 | C9H12N2O2
reactant | triethylamine | 2.0 mmol, 0.28 mL, 2.0 eq. | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 2.0 mmol, 0.44 g, 2.0 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | t-butyl 4-nitrobenzyl(ethyl)carbamate | 0.9 mmol, 0.25 g, 89% | [N+](=O)([O-])C1=CC=C(CN(C(OC(C)(C)C)=O)CC)C=C1 | C14H20N2O4
